US09079889B2
Synthesis of methyl 6-(2,6-difluoro-3-(trifluoromethyl-sulfonyloxy)phenyl)-5-fluoropicolinate
To a solution of methyl 6-(2,6-difluoro-3-hydroxyphenyl)-5-fluoropicolinate (1.0 equiv.) in DCM (0.2 M) was added DIEA (2.0 equiv.) and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (1.5 equiv.). The reaction was allowed to stir overnight at room temperature. The solution was quenched with water, the organic phase was dried with sodium sulfate, and concentrated. The crude material was purified via ISCO chromatography eluting with ethyl acetate and hexanes (0-30% ethyl acetate). The pure fractions were concentrated to give methyl 6-(2,6-difluoro-3-(trifluoromethylsulfonyloxy)phenyl)-5-fluoropicolinate as the desired product as a clear oil in 68% yield. LC/MS=416.1 (M+H), Rt=1.08 min.

reactant | methyl 6-(2,6-difluoro-3-hydroxyphenyl)-5-fluoropicolinate | 1.0 equiv. | FC1=C(C(=CC=C1O)F)C1=C(C=CC(=N1)C(=O)OC)F | C13H8F3NO3
reactant | DIEA | 2.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.5 equiv. | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | DCM | 0.2 M | C(Cl)Cl | CH2Cl2
product | methyl 6-(2,6-difluoro-3-(trifluoromethyl-sulfonyloxy)phenyl)-5-fluoropicolinate | FC1=C(C(=CC=C1OS(=O)(=O)C(F)(F)F)F)C1=C(C=CC(=N1)C(=O)OC)F | C14H7F6NO5S
